US04152433
A mixture of 2,2,2-trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride (0.38 g.), trimethylsilylacetamide (1.1 g.) and methylene chloride (10 ml.) was stirred for 30 minutes at room temperature, and thus obtained solution was cooled to -15° C. To the solution was added dropwise 3-oxo-4-bromobutyryl bromide (1.0 m mole) in carbon tetrachloride (13 ml.) under cooling to -15° C., and the mixture was stirred for 1.5 hours at the same temperature and for 30 minutes without external cooling. The mixture was poured into cold water, and then the organic layer was separated therefrom. The organic layer was washed with 2N hydrochloric acid (8 ml ×3) and water (10 ml ×2) in turn, dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure. The residue was pulverized in diisopropyl ether, collected by filtration and then dried to give pale brown powder of 2,2,2-trichloroethyl 2-methyl-7-(3-oxo-4-bromobutyramido)-3-cephem-4-carboxylate (0.31 g.), mp 78° to 83° C. (dec.).

reactant | 2,2,2-trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride | 0.38 g | Cl.CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2N)=O
reactant | trimethylsilylacetamide | 1.1 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | 3-oxo-4-bromobutyryl bromide | O=C(CC(=O)Br)CBr | C4H4Br2O2
solvent | carbon tetrachloride | 13 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
product | 2,2,2-trichloroethyl 2-methyl-7-(3-oxo-4-bromobutyramido)-3-cephem-4-carboxylate | 0.31 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC(CBr)=O)=O)=O | C14H14BrCl3N2O5S
